US06423849B1
Preparation of 5-(2-methoxy-4-nitrophenyl)-4-oxazolecarboxylic acid
In 50 ml of methanol were added 15.0 g (0.051 mol) of 5-(2-methoxy-4-nitrophenyl)-4-carboethoxyoxazole obtained in Example 1-(1) and 9.8 g (0.061 mol) of a 25% aqueous solution of sodium hydroxide, and the mixture was allowed to react at 40° C. for 4 hours. The reaction mixture was filtered to collect sodium 5-(2-methoxy-4-nitrophenyl)-4-oxazolecarboxylate as a wet cake, which was dissolved in 1000 ml of water and adjusted to pH 2 with 35% hydrochloric acid. The crystals thus precipitated were collected by filtration to obtain 12.2 g (0.046 mol, 90.2% based on the 5-(2-methoxy-4-nitrophenyl)-4-carboethoxyoxazole) of the title compound.

reactant | 5-(2-methoxy-4-nitrophenyl)-4-carboethoxyoxazole | 0.051 mol, 15.0 g | COC1=C(C=CC(=C1)[N+](=O)[O-])C1=C(N=CO1)C(=O)OCC | C13H12N2O6
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 5-(2-methoxy-4-nitrophenyl)-4-oxazolecarboxylic acid | COC1=C(C=CC(=C1)[N+](=O)[O-])C1=C(N=CO1)C(=O)O | C11H8N2O6
